US06696567B2
1-Benzyl-4-methyl-pyridinium Chloride
To a stirred solution of 4-methylpyridine (26 mL/0.268 mol) in 70 mL of acetone was added 31 mL (0.268 mol) of benzylchloride. The resulting mixture was stirred at 50° C. for 18 hours. After cooling to room temperature, the reaction was filtered, washed with acetone and dried under reduced pressure affording 38 g of the title compound. The filtrate was concentrated under reduced pressure producing an additional 5.6 grams of the title compound (74% combined yield).

reactant | 4-methylpyridine | 0.268 mol, 26 mL | CC1=CC=NC=C1 | C6H7N
reactant | benzylchloride | 0.268 mol, 31 mL | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | acetone | 70 mL | CC(=O)C | C3H6O
product | 1-Benzyl-4-methyl-pyridinium Chloride | 38 g | [Cl-].C(C1=CC=CC=C1)[N+]1=CC=C(C=C1)C | InChI=1S/C13H14N.ClH/c1-12-7-9-14(10-8-12)11-13-5-3-2-4-6-13;/h2-10H,11H2,1H3;1H/q+1;/p-1
